US06103708
4-[(2-Butyl-benzofuran-3-ylmethyl)-amino]-phenol
At ambient temperature, to a stirred solution containing 2-n-butylbenzofuran-3-carboxaldehyde (0.888 g, 4.77 mmol) and 4-aminophenol hydrochloride in MeOH (7 mL) was added sodium cyanoborohydride (0.330 g, 5.25 mmol). After 24 h, the reaction was carefully quenched with 3N HCl, diluted with H2O and extracted with CH2Cl2. The organic extracts were washed with sat. aq. NaHCO3, dried and concentrated. Purification on silica gel eluting with a 20 & 40% EtOAc/pet. ether step gradient gave the title compound as a pale yellow solid. 1H NMR (CDCl3) δ 0.93 (t, 3 H), 1.38 (sextet, 2 H), 1.70 (quintet, 2 H), 2.79 (t, 2 H), 4.27 (s, 1 H), 4.35 (br. s, 1 H), 6.62 (d, 2 H), 6.75 (d, 2 H), 7.18-7.26 (m, 3 H), 7.41 (d, 1 H), 7.54 (d, 1 H).

reactant | 2-n-butylbenzofuran-3-carboxaldehyde | 4.77 mmol, 0.888 g | C(CCC)C=1OC2=C(C1C=O)C=CC=C2 | C13H14O2
reactant | 4-aminophenol hydrochloride | Cl.NC1=CC=C(C=C1)O
reactant | sodium cyanoborohydride | 5.25 mmol, 0.330 g | C(#N)[BH3-].[Na+]
solvent | MeOH | 7 mL | CO | CH4O
product | 4-[(2-Butyl-benzofuran-3-ylmethyl)-amino]-phenol | C(CCC)C=1OC2=C(C1CNC1=CC=C(C=C1)O)C=CC=C2 | C19H21NO2
